US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-bromobenzenesulfonylamino)hexanoic acid (3.50 g) and methyl 4-aminophenylpropionate (1.61 g) were condensed in dichloromethane (40 ml) in the presence of N,N'-dicyclohexylcarbodiimide (2.47 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from isopropyl alcohol to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)hexaneamide (3.47 g).

reactant | (S)-2-(4-bromobenzenesulfonylamino)hexanoic acid | 3.50 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CCCC | C12H16BrNO4S
reactant | methyl 4-aminophenylpropionate | 1.61 g | NC1=CC=C(C=C1)C(C(=O)OC)C | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 2.47 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)hexaneamide | 3.47 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CCCC | C22H27BrN2O5S
